US07790895B2
A flask was with charged 4-bromo-pyridine-3-carbaldehyde (376 mg, 2 mmol), 3-formal-6-methoxyphenelboronic acid (432 mg, 2.4 mmol), tetrakis(triphenylphosphine) palladium(0) (116 mg, 0.1 mmol), potassium phosphate (638 mg, 3 mmol) and 1,4-dioxane (20 mL). The reaction mixture was kept at 80° C. overnight, then diluted with ethyl acetate and washed with water then brine. The organic layer was dried over sodium sulfate, concentrated, and the residue purified by flash chromatography to yield 3-(3-hydroxymethyl-pyridin-4-yl)-4-methoxy-benzaldehyde as a yellow oil.

reactant | 4-bromo-pyridine-3-carbaldehyde | 2 mmol, 376 mg | BrC1=C(C=NC=C1)C=O | C6H4BrNO
reactant | potassium phosphate | 3 mmol, 638 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium(0) | 0.1 mmol, 116 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 3-(3-hydroxymethyl-pyridin-4-yl)-4-methoxy-benzaldehyde | OCC=1C=NC=CC1C=1C=C(C=O)C=CC1OC | C14H13NO3
